### PR TITLE
Simplifying a statement in Hurkens.v + a case study for eauto

### PR DESCRIPTION
**Pull request by herbelin**
Nothing of very general interest here, except maybe a case study for eauto.

This is a small strengthening of the proof `NoRetractToModalProposition.paradox` in `Hurkens.v` obtained by dropping an artificial need for monad laws. Tactic `eauto` misguidingly decided to be dependent on the laws but there is a shorter proof without them.

The case study for `eauto` is that `eauto` is not able to find the short proof. This is a situation of the form
```
subgoal 1:  H : ?A |- P x
subgoal 2:  H : M ?A |- M (forall x, P x)
```
where addressing the second subgoal would find the right instance of ?A, but this instance is too hard to find by addressing first the first subgoal.

### CODE REVIEW

File: theories/Logic/Hurkens.v [hunk 1]
```diff
@@ -360,13 +360,12 @@ Module NoRetractToModalProposition.
...
 Variable M : Prop -> Prop.
-Hypothesis unit : forall A:Prop, A -> M A.
-Hypothesis join : forall A:Prop, M (M A) -> M A.
 Hypothesis incr : forall A B:Prop, (A->B) -> M A -> M B.
 
 Lemma strength: forall A (P:A->Prop), M(forall x:A,P x) -> forall x:A,M(P x).
 Proof.
-  eauto.
+  intros A P h x.
+  eapply incr in h; eauto.
```
Comment (aspiwack) [inline theories/Logic/Hurkens.v]: Oh. That's very clever.

**Review by aspiwack — COMMENTED** [review]
Sweet!

I guess I was on autopilot here: you usually need the monadic rules to get sufficient structure on the image. But I guess that in order to derive a contradiction it's overkill.

The comment(s) mentioning « monadic modality » are not accurate anymore, so they may be changed to « monotonous modality » or something? (or just « modality » perhaps).
